US07714009B2
N-Mesityl-6-methyl-7-nitro-1,3-benzothiazol-2-amine
To a mixture of 1-mesityl-3-(4-methyl-3-nitrophenyl)thiourea (500 mg, 1.52 mmol) in carbon tetrachloride (25 ml) was added dropwise bromine (0.097 ml, 1.90 mmol) in carbon tetrachloride (10 ml) over 1 h. The mixture was refluxed for 18 h and diluted with water. The aqueous solution was extracted with dichloromethane. The extract was washed with water and brine and concentrated under vacuum. The residue was triturated with ether. The resulting solid was collected by filtration to afford 225 mg of the title compound.

reactant | 1-mesityl-3-(4-methyl-3-nitrophenyl)thiourea | 1.52 mmol, 500 mg | C1(=C(C(=CC(=C1)C)C)NC(=S)NC1=CC(=C(C=C1)C)[N+](=O)[O-])C | C17H19N3O2S
reactant | bromine | 1.90 mmol, 0.097 ml | BrBr | Br2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | N-Mesityl-6-methyl-7-nitro-1,3-benzothiazol-2-amine | 225 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])C)C | C17H17N3O2S
